US04678798
30.4 g (0.1 mole) of 2,4,6-trichlorophenoxyethyl bromide were added to a suspension of 48.5 g (0.5 mole) of O-ethylhydroxylamine hydrochloride in 250 ml of ethyldiisopropylamine, and the mixture was stirred for 4 days at 50° C. and then cooled to 15° C. and filtered under suction. The filtrate was evaporated down under reduced pressure, in the final stage at 60° C. and under 0.1 mbar, the residue was dissolved in 300 ml of ether, and the solution was gassed with hydrogen chloride at +3° C. 17 g of O-ethyl-N-(2,4,6-trichlorophenoxy)ethylhydroxylamine hydrochloride of melting point 173°-175° C. were obtained.

reactant | 2,4,6-trichlorophenoxyethyl bromide | 0.1 mole, 30.4 g | ClC1=C(OCCBr)C(=CC(=C1)Cl)Cl | C8H6BrCl3O
reactant | O-ethylhydroxylamine hydrochloride | 0.5 mole, 48.5 g | Cl.C(C)ON
solvent | ethyldiisopropylamine | 250 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | O-ethyl-N-(2,4,6-trichlorophenoxy)ethylhydroxylamine hydrochloride | 17 g | Cl.C(C)ONCCOC1=C(C=C(C=C1Cl)Cl)Cl | InChI=1S/C10H12Cl3NO2.ClH/c1-2-16-14-3-4-15-10-8(12)5-7(11)6-9(10)13;/h5-6,14H,2-4H2,1H3;1H
